### PR TITLE
Remove arguments of fancy identifiers

### PR DESCRIPTION
**Pull request by JasonGross**
Also, define constants for each of them to interpret to.

When we generate identifiers automatically, we'll hardcode special
treatment for ident.literal and ident.cast, but the rest of the
identifiers should only take type parameters as Gallina arguments, and
should take the rest of their arguments in PHOAS.

This required some changes to the bounds proofs and the Fancy compiler;
my aim in making the changes was to minimize the extent to which I'd
have to rework things, so, e.g., sometimes I add a bit to a definition,
and then add some tactic code in the early stages of a proof to get the
goal back to what it was before I made the change to the definition
(even if this is not the most efficient route to proving the statement
as a whole; I got frustrated trying to figure out how to re-do some of
the proofs).

There is, unfortunately, a rather large overhead to these changes.  The
extra time spent in `Rewriter/Passes/NBE.vo` and `Rewriter/Examples.vo`
is due to bad asymptotic factors in the number of rewrite rules combined
with the fact that the fancy identifiers now have "evaluate me fully"
rewrite rules in NBE (because they now have no arguments, which is
basically what the machinery looks for).

The overhead in `Fancy/Compiler.vo` and
`AbstractInterpretation/ZRangeProofs.vo` are probably due to inefficent
proofs.  I'd guess the overhead in `Rewriter/Passes/ToFancyWithCasts.vo`
is just noise, but I'm not sure (it could also be that we've increased
nesting depth by destructuring more tuples?).

@achlipala @jadephilipoom thoughts on the acceptability of the overhead here?

Also, @jadephilipoom please review the changes to `src/Fancy/Compiler.v`

```
After     | File Name                                                       | Before    || Change    | % Change
---------------------------------------------------------------------------------------------------------------
51m05.69s | Total                                                           | 47m54.64s || +3m11.05s | +6.64%
---------------------------------------------------------------------------------------------------------------
3m14.16s  | Fancy/Compiler.vo                                               | 2m14.33s  || +0m59.82s | +44.53%
2m13.39s  | Rewriter/Passes/NBE.vo                                          | 1m24.03s  || +0m49.35s | +58.74%
1m04.05s  | AbstractInterpretation/ZRangeProofs.vo                          | 0m35.78s  || +0m28.26s | +79.01%
1m02.25s  | Rewriter/Examples.vo                                            | 0m33.60s  || +0m28.64s | +85.26%
1m34.93s  | Rewriter/Passes/ToFancyWithCasts.vo                             | 1m21.69s  || +0m13.24s | +16.20%
3m29.39s  | PushButtonSynthesis/WordByWordMontgomeryReificationCache.vo     | 3m33.83s  || -0m04.43s | -2.07%
2m50.52s  | PushButtonSynthesis/FancyMontgomeryReductionReificationCache.vo | 2m45.98s  || +0m04.54s | +2.73%
0m53.26s  | PushButtonSynthesis/UnsaturatedSolinasReificationCache.vo       | 0m49.06s  || +0m04.19s | +8.56%
0m45.48s  | p521_32.c                                                       | 0m41.20s  || +0m04.27s | +10.38%
0m41.33s  | fiat-rust/src/p521_32.rs                                        | 0m45.81s  || -0m04.48s | -9.77%
4m07.70s  | fiat-rust/src/p384_32.rs                                        | 4m10.72s  || -0m03.02s | -1.20%
1m47.10s  | Fancy/Barrett256.vo                                             | 1m43.54s  || +0m03.56s | +3.43%
0m45.04s  | Fancy/Montgomery256.vo                                          | 0m41.27s  || +0m03.76s | +9.13%
0m37.16s  | fiat-rust/src/p521_64.rs                                        | 0m34.03s  || +0m03.12s | +9.19%
1m04.13s  | Rewriter/ProofsCommon.vo                                        | 1m01.40s  || +0m02.72s | +4.44%
0m43.17s  | SlowPrimeSynthesisExamples.vo                                   | 0m45.42s  || -0m02.25s | -4.95%
0m35.70s  | AbstractInterpretation/Proofs.vo                                | 0m38.27s  || -0m02.57s | -6.71%
0m33.88s  | p521_64.c                                                       | 0m36.56s  || -0m02.67s | -7.33%
4m06.71s  | p384_32.c                                                       | 4m05.59s  || +0m01.12s | +0.45%
1m08.81s  | Rewriter/InterpProofs.vo                                        | 1m09.86s  || -0m01.04s | -1.50%
0m37.19s  | Rewriter/Passes/Arith.vo                                        | 0m38.90s  || -0m01.71s | -4.39%
0m28.45s  | ExtractionOCaml/word_by_word_montgomery                         | 0m27.30s  || +0m01.14s | +4.21%
0m18.92s  | secp256k1_32.c                                                  | 0m17.15s  || +0m01.77s | +10.32%
0m17.88s  | ExtractionOCaml/word_by_word_montgomery.ml                      | 0m16.54s  || +0m01.33s | +8.10%
0m14.38s  | p434_64.c                                                       | 0m16.26s  || -0m01.88s | -11.56%
2m36.91s  | Rewriter/Wf.vo                                                  | 2m36.27s  || +0m00.63s | +0.40%
1m06.96s  | Rewriter/Passes/ArithWithCasts.vo                               | 1m06.68s  || +0m00.27s | +0.41%
0m58.45s  | Language/UnderLetsProofs.vo                                     | 0m57.46s  || +0m00.99s | +1.72%
0m54.50s  | PushButtonSynthesis/UnsaturatedSolinas.vo                       | 0m54.06s  || +0m00.43s | +0.81%
0m51.53s  | AbstractInterpretation/Wf.vo                                    | 0m51.60s  || -0m00.07s | -0.13%
0m41.62s  | PushButtonSynthesis/WordByWordMontgomery.vo                     | 0m41.41s  || +0m00.21s | +0.50%
0m39.43s  | PushButtonSynthesis/BarrettReductionReificationCache.vo         | 0m38.99s  || +0m00.43s | +1.12%
0m32.64s  | BoundsPipeline.vo                                               | 0m32.85s  || -0m00.21s | -0.63%
0m28.49s  | Rewriter/RulesProofs.vo                                         | 0m28.05s  || +0m00.43s | +1.56%
0m24.89s  | Language/Wf.vo                                                  | 0m25.07s  || -0m00.17s | -0.71%
0m23.20s  | PushButtonSynthesis/BarrettReduction.vo                         | 0m23.34s  || -0m00.14s | -0.59%
0m22.40s  | Language/Inversion.vo                                           | 0m21.70s  || +0m00.69s | +3.22%
0m21.21s  | ExtractionOCaml/unsaturated_solinas                             | 0m20.23s  || +0m00.98s | +4.84%
0m18.10s  | fiat-rust/src/secp256k1_32.rs                                   | 0m18.67s  || -0m00.57s | -3.05%
0m18.04s  | fiat-rust/src/p256_32.rs                                        | 0m18.42s  || -0m00.38s | -2.06%
0m17.67s  | Rewriter/Passes/MulSplit.vo                                     | 0m17.69s  || -0m00.01s | -0.11%
0m17.28s  | p256_32.c                                                       | 0m17.21s  || +0m00.07s | +0.40%
0m17.17s  | Stringification/IR.vo                                           | 0m16.71s  || +0m00.46s | +2.75%
0m16.37s  | fiat-rust/src/p434_64.rs                                        | 0m15.39s  || +0m00.98s | +6.36%
0m16.04s  | p448_solinas_64.c                                               | 0m16.16s  || -0m00.12s | -0.74%
0m15.94s  | fiat-rust/src/p448_solinas_64.rs                                | 0m16.89s  || -0m00.95s | -5.62%
0m15.05s  | Language/IdentifiersGENERATED.vo                                | 0m15.24s  || -0m00.18s | -1.24%
0m14.73s  | Language/IdentifiersGENERATEDProofs.vo                          | 0m14.56s  || +0m00.16s | +1.16%
0m14.71s  | Language/IdentifiersLibraryProofs.vo                            | 0m14.81s  || -0m00.09s | -0.67%
0m12.62s  | ExtractionOCaml/unsaturated_solinas.ml                          | 0m12.65s  || -0m00.03s | -0.23%
0m09.18s  | p224_32.c                                                       | 0m08.72s  || +0m00.45s | +5.27%
0m08.81s  | fiat-rust/src/p224_32.rs                                        | 0m08.12s  || +0m00.69s | +8.49%
0m07.87s  | p384_64.c                                                       | 0m07.94s  || -0m00.07s | -0.88%
0m07.36s  | fiat-rust/src/p384_64.rs                                        | 0m07.19s  || +0m00.16s | +2.36%
0m06.22s  | PushButtonSynthesis/SmallExamples.vo                            | 0m06.34s  || -0m00.12s | -1.89%
0m06.07s  | Fancy/Prod.vo                                                   | 0m06.06s  || +0m00.01s | +0.16%
0m06.02s  | CastLemmas.vo                                                   | 0m05.86s  || +0m00.15s | +2.73%
0m05.88s  | PushButtonSynthesis/SaturatedSolinasReificationCache.vo         | 0m05.71s  || +0m00.16s | +2.97%
0m05.17s  | PushButtonSynthesis/Primitives.vo                               | 0m05.21s  || -0m00.04s | -0.76%
0m04.36s  | PushButtonSynthesis/SaturatedSolinas.vo                         | 0m04.20s  || +0m00.16s | +3.80%
0m04.35s  | PushButtonSynthesis/FancyMontgomeryReduction.vo                 | 0m04.32s  || +0m00.02s | +0.69%
0m03.10s  | Language/Identifier.vo                                          | 0m03.17s  || -0m00.06s | -2.20%
0m02.95s  | MiscCompilerPassesProofs.vo                                     | 0m02.77s  || +0m00.18s | +6.49%
0m02.85s  | Rewriter/Rules.vo                                               | 0m03.25s  || -0m00.39s | -12.30%
0m02.63s  | fiat-rust/src/curve25519_32.rs                                  | 0m02.60s  || +0m00.02s | +1.15%
0m02.58s  | curve25519_32.c                                                 | 0m02.72s  || -0m00.14s | -5.14%
0m01.92s  | Rewriter/Passes/StripLiteralCasts.vo                            | 0m01.78s  || +0m00.13s | +7.86%
0m01.88s  | Stringification/Rust.vo                                         | 0m01.82s  || +0m00.05s | +3.29%
0m01.87s  | fiat-rust/src/curve25519_64.rs                                  | 0m01.68s  || +0m00.19s | +11.30%
0m01.82s  | curve25519_64.c                                                 | 0m01.73s  || +0m00.09s | +5.20%
0m01.81s  | Rewriter/PerfTesting/StandaloneOCamlMain.vo                     | 0m01.74s  || +0m00.07s | +4.02%
0m01.79s  | Rewriter/Passes/ToFancy.vo                                      | 0m01.76s  || +0m00.03s | +1.70%
0m01.77s  | Language/IdentifiersLibrary.vo                                  | 0m01.88s  || -0m00.10s | -5.85%
0m01.72s  | Rewriter/PerfTesting/Core.vo                                    | 0m01.86s  || -0m00.14s | -7.52%
0m01.63s  | CLI.vo                                                          | 0m01.84s  || -0m00.21s | -11.41%
0m01.62s  | AbstractInterpretation/AbstractInterpretation.vo                | 0m01.66s  || -0m00.03s | -2.40%
0m01.60s  | StandaloneOCamlMain.vo                                          | 0m01.54s  || +0m00.06s | +3.89%
0m01.50s  | secp256k1_64.c                                                  | 0m01.68s  || -0m00.17s | -10.71%
0m01.49s  | Rewriter/Rewriter.vo                                            | 0m01.44s  || +0m00.05s | +3.47%
0m01.46s  | StandaloneHaskellMain.vo                                        | 0m01.62s  || -0m00.16s | -9.87%
0m01.46s  | p224_64.c                                                       | 0m01.57s  || -0m00.11s | -7.00%
0m01.42s  | Rewriter/Reify.vo                                               | 0m01.27s  || +0m00.14s | +11.81%
0m01.40s  | fiat-rust/src/p224_64.rs                                        | 0m01.52s  || -0m00.12s | -7.89%
0m01.39s  | fiat-rust/src/secp256k1_64.rs                                   | 0m01.76s  || -0m00.37s | -21.02%
0m01.38s  | p256_64.c                                                       | 0m01.59s  || -0m00.21s | -13.20%
0m01.37s  | Stringification/Language.vo                                     | 0m01.29s  || +0m00.08s | +6.20%
0m01.36s  | CompilersTestCases.vo                                           | 0m01.43s  || -0m00.06s | -4.89%
0m01.34s  | fiat-rust/src/p256_64.rs                                        | 0m01.44s  || -0m00.09s | -6.94%
0m01.30s  | Language/Language.vo                                            | 0m01.24s  || +0m00.06s | +4.83%
0m01.06s  | Rewriter/AllTactics.vo                                          | 0m01.04s  || +0m00.02s | +1.92%
0m01.06s  | Stringification/C.vo                                            | 0m01.15s  || -0m00.08s | -7.82%
0m01.02s  | Rewriter/ProofsCommonTactics.vo                                 | 0m01.10s  || -0m00.08s | -7.27%
0m00.96s  | MiscCompilerPassesProofsExtra.vo                                | 0m00.97s  || -0m00.01s | -1.03%
0m00.93s  | Rewriter/All.vo                                                 | 0m00.95s  || -0m00.01s | -2.10%
0m00.85s  | Language/IdentifiersGenerate.vo                                 | 0m00.90s  || -0m00.05s | -5.55%
0m00.84s  | MiscCompilerPasses.vo                                           | 0m00.80s  || +0m00.03s | +4.99%
0m00.83s  | Language/IdentifiersGenerateProofs.vo                           | 0m00.81s  || +0m00.01s | +2.46%
0m00.80s  | Rewriter/AllTacticsExtra.vo                                     | 0m00.86s  || -0m00.05s | -6.97%
0m00.68s  | Language/API.vo                                                 | 0m00.63s  || +0m00.05s | +7.93%
0m00.64s  | Language/IdentifierWf.vo                                        | 0m00.58s  || +0m00.06s | +10.34%
0m00.64s  | Language/UnderLetsProofsExtra.vo                                | 0m00.58s  || +0m00.06s | +10.34%
0m00.61s  | Language/UnderLets.vo                                           | 0m00.56s  || +0m00.04s | +8.92%
0m00.61s  | Language/WfExtra.vo                                             | 0m00.58s  || +0m00.03s | +5.17%
0m00.57s  | PushButtonSynthesis/ReificationCache.vo                         | 0m00.64s  || -0m00.07s | -10.93%
0m00.55s  | AbstractInterpretation/WfExtra.vo                               | 0m00.56s  || -0m00.01s | -1.78%
0m00.42s  | Language/Pre.vo                                                 | 0m00.38s  || +0m00.03s | +10.52%
```

### CODE REVIEW

**Comment by achlipala** [comment]
The source files you called out stand in for how clients of our plugin would experience using it?  That does seem like worrying overhead, *but* it also seems low enough to allow us to keep making implementation progress.

Almost certainly I'll argue for continuing with the implementation atop this change, such that we can return to performance optimization once all functionality is in place, with performance good enough for us to run enough tests.

File: src/AbstractInterpretation/AbstractInterpretation.v [hunk 1]
```diff
@@ -691,51 +691,67 @@ Module Compilers.
                => fun '((r1', r2') : option zrange * option zrange)
                   => (interp_Z_cast r1 r1', interp_Z_cast r2 r2')
              (** TODO(jadep): fill in fancy bounds analysis rules *)
```
Comment (jadephilipoom) [inline src/AbstractInterpretation/AbstractInterpretation.v]: Not really related to this change, but we should probably remove the stale TODO

Comment (JasonGross) [reply src/AbstractInterpretation/AbstractInterpretation.v]: Removed

**Comment by JasonGross** [comment]
@achlipala The overhead in `Rewriter/Passes/NBE.vo` and `Rewriter/Examples.vo` resulting from adding about 10 rewrite rules to an already large list of rewrite rules is indicative of client experiences.
The overhead in `Fancy/Compiler.vo` and `AbstractInterpretation/ZRangeProofs.vo` are indicative of what a client might experience if they autogenerate a rewriter for one set of rewrite rules, hand-code and hand-prove some passes over the generated PHOAST, and then change the set of rewrite rules and try to update the proofs and passes in a non-principled way.

@jadephilipoom I have two arguments here:
1. Big changes are a pain to rebase with respect to.  If we, e.g., decide to remove `cast_outside_of_range` entirely (and I'm seriously considering doing this so that I don't have to special-case `zrange` and `Z.cast` in the eventual OCaml code), I don't want to be maintaining two versions of the rewriter.  I think the right factoring, eventually, is to have the Rewriter be its own package/repo, and have fiat-crypto depend on it.
2. I think it is easier to review smaller code changes than larger ones, and when timing changes like this happen, it seems better to record them accurately in git history than to have them be inaccurately recorded because I later rebased or something.

That said, I agree the overhead is unfortunate (though I can't quite tell if you're talking about overall overhead, or overhead just in the Fancy compiler).  I'm working on running a build to get a line-by-line diff (hopefully) of `Fancy/Compiler`, so maybe we'll be able to fix the slowdown?  I'm also down to chat about how to reduce the complexity overhead, since I have ideas about ways to do things, but I'm not sure what metric you're using for simplicity, and the complexity has to go somewhere (though it can be hidden / factored in various ways).  Are you around today to chat @jadephilipoom ?

**Comment by JasonGross** [comment]
@jadephilipoom Note also that I have 1--3 more changes planned for Fancy/Compiler.  One of them is https://github.com/JasonGross/fiat-crypto/commit/6a03762ecf00a40408ed5118e219b181627d28f1#diff-93cc9f6454c46de68419234feba87d1d, another is removing `cast_outside_of_range`, and the third is removing the Gallina argument to `Z_cast` and `Z_cast2`, much as I removed the Gallina arguments to the fancy identifiers in this PR.  I hope these changes will have much less timing overhead (removing `cast_outside_of_range` may even make things faster), though I expect a small and mostly-localized complexity increase from removing the argument from `Z_cast` because it'll make the pattern matching on casts more complicated.

**Comment by JasonGross** [comment]
per-line timing diff:
```
After     | Code                                                    | Before    || Change    | % Change
-------------------------------------------------------------------------------------------------------
3m10.58s  | Total                                                   | 2m12.72s  || +0m57.85s | +43.59% 
-------------------------------------------------------------------------------------------------------
1m22.705s | Chars 37281 - 37527 [(inversion~1;~inversion~1;~cbn...] |    N/A    || +1m22.70s | ∞       
   N/A    | Chars 35101 - 35347 [(inversion~1;~inversion~1;~cbn...] | 0m46.503s || -0m46.50s | -100.00%
0m19.895s | Chars 45927 - 47873 [(induction~1;~inversion~1;~cbv...] |    N/A    || +0m19.89s | ∞       
   N/A    | Chars 43747 - 45693 [(induction~1;~inversion~1;~cbv...] | 0m19.58s  || -0m19.57s | -100.00%
0m14.067s | Chars 48600 - 48616 [End~of_prefancy.]                  |    N/A    || +0m14.06s | ∞       
0m13.456s | Chars 38981 - 38985 [Qed.]                              |    N/A    || +0m13.45s | ∞       
0m12.236s | Chars 33394 - 34462 [all:~~(cbn-[Z.shiftl~wordmax];...] |    N/A    || +0m12.23s | ∞       
   N/A    | Chars 31214 - 32282 [all:~~(cbn-[Z.shiftl~wordmax];...] | 0m12.067s || -0m12.06s | -100.00%
0m11.924s | Chars 32973 - 33152 [(destruct~1;~try~exact~I;~cbn[...] |    N/A    || +0m11.92s | ∞       
   N/A    | Chars 30866 - 30972 [(destruct~1;~try~exact~I;~cbn[...] | 0m08.586s || -0m08.58s | -100.00%
   N/A    | Chars 46420 - 46436 [End~of_prefancy.]                  | 0m08.165s || -0m08.16s | -100.00%
   N/A    | Chars 36801 - 36805 [Qed.]                              | 0m06.044s || -0m06.04s | -100.00%
0m04.052s | Chars 34756 - 34760 [Qed.]                              |    N/A    || +0m04.05s | ∞       
0m03.278s | Chars 43209 - 43253 [(inversion~1;~intros;~hammer;~...] |    N/A    || +0m03.27s | ∞       
   N/A    | Chars 18748 - 20880 [all:~~(repeat~(first~~~~[~prog...] | 0m02.987s || -0m02.98s | -100.00%
0m02.941s | Chars 20699 - 22831 [all:~~(repeat~(first~~~~[~prog...] |    N/A    || +0m02.94s | ∞       
   N/A    | Chars 32576 - 32580 [Qed.]                              | 0m02.74s  || -0m02.74s | -100.00%
   N/A    | Chars 41029 - 41073 [(inversion~1;~intros;~hammer;~...] | 0m02.664s || -0m02.66s | -100.00%
   N/A    | Chars 57519 - 57541 [(prove_comm~Z.mul_comm).]          | 0m02.574s || -0m02.57s | -100.00%
0m02.561s | Chars 59699 - 59721 [(prove_comm~Z.mul_comm).]          |    N/A    || +0m02.56s | ∞       
0m02.103s | Chars 29427 - 30344 [(destruct~1;~intros;~hammer;~c...] |    N/A    || +0m02.10s | ∞       
   N/A    | Chars 27320 - 28237 [(destruct~1;~intros;~hammer;~c...] | 0m02.052s || -0m02.05s | -100.00%
0m01.72s  | Chars 38176 - 38976 [all:~~(repeat~~~~match~goal~wi...] |    N/A    || +0m01.72s | ∞       
   N/A    | Chars 35996 - 36796 [all:~~(repeat~~~~match~goal~wi...] | 0m01.652s || -0m01.65s | -100.00%
0m01.495s | Chars 48581 - 48585 [Qed.]                              |    N/A    || +0m01.49s | ∞       
   N/A    | Chars 46401 - 46405 [Qed.]                              | 0m01.454s || -0m01.45s | -100.00%
0m01.351s | Chars 40697 - 40981 [(inversion~1;~~~repeat~~~~matc...] |    N/A    || +0m01.35s | ∞       
0m01.346s | Chars 43254 - 43258 [Qed.]                              |    N/A    || +0m01.34s | ∞       
0m01.277s | Chars 59881 - 59903 [(prove_comm~Z.mul_comm).]          |    N/A    || +0m01.27s | ∞       
   N/A    | Chars 57701 - 57723 [(prove_comm~Z.mul_comm).]          | 0m01.272s || -0m01.27s | -100.00%
0m01.238s | Chars 20575 - 20692 [(inversion~1;~inversion~1;~cbv...] |    N/A    || +0m01.23s | ∞       
   N/A    | Chars 18624 - 18741 [(inversion~1;~inversion~1;~cbv...] | 0m01.234s || -0m01.23s | -100.00%
0m01.192s | Chars 48588 - 48599 [End~Proofs.]                       |    N/A    || +0m01.19s | ∞       
   N/A    | Chars 41074 - 41078 [Qed.]                              | 0m01.02s  || -0m01.02s | -100.00%
```
So it looks like 36 of the 58 seconds come from the first tactic chain in
```coq
    Lemma of_prefancy_identZZ_correct' {s} idc:
      forall (x : @cexpr var _) i ctx G cc cctx x2 r rf f,
        @valid_ident (type.base s) (tZ * tZ) r rf idc x ->
        Compilers.expr.wf G (#idc @ x)%expr x2 ->
        Compilers.expr.wf G #(ident.Z_cast2 (uint256, r[0~>1]%zrange)) f ->
        cc_good cc cctx ctx r ->
        (forall n v, consts v = Some n -> In (existZ (n, v)) G) ->
        (forall t v1 v2, In (existT _ (type.base t) (v1, v2)) G -> interp_base ctx cctx v1 = v2) ->
        (forall n, ctx n mod wordmax = ctx n) ->
        of_prefancy_ident idc x = Some i ->
        spec (projT1 i) (Tuple.map ctx (projT2 i)) cc mod wordmax = fst (cinterp f (cinterp x2)) /\
        Z.b2z (cc_spec CC.C (spec (projT1 i) (Tuple.map ctx (projT2 i)) cc)) = snd (cinterp f (cinterp x2)).
    Proof.
      inversion 1; inversion 1; cbn [of_prefancy_ident]; intros; hammer; (simplify_ident; [ ]);
        cbn - [Z.div Z.modulo]; cbv [Z.sub_with_borrow Z.add_with_carry];
          cbv [cc_good] in *; destruct_head'_and; autorewrite with zsimplify_fast.
```
Another 9 seconds were added to section closing (probably a result of `of_prefancy_ident` and some proof objects being much larger), and another 7 seconds to one of the `Qed`s.  Another 3.5 seconds are in the first tactic of
```coq
    Lemma of_prefancy_identZ_loosen_correct_gen {s d} idc:
      forall (x : @cexpr var _) i ctx G cc cctx x2 r rf f u,
        @valid_ident s d r rf idc x ->
        match s, d return ident (s -> d) -> cexpr s -> (var d -> _ -> _) -> Prop with
        | type.base s, type.base tZ
          => fun idc x rf
             => Compilers.expr.wf G (#idc @ x)%expr x2 ->
                Compilers.expr.wf G #(ident.Z_cast r[0~>u]) f ->
                0 < u < wordmax ->
                cc_good cc cctx ctx r ->
                (forall n v, consts v = Some n -> In (existZ (n, v)) G) ->
                (forall t (v1 : var (type.base t)) v2, In (existT _ (type.base t) (v1, v2)) G -> interp_base ctx cctx v1 = v2) ->
                (forall n, ctx n mod wordmax = ctx n) ->
                of_prefancy_ident idc x = Some i ->
                (spec (projT1 i) (Tuple.map ctx (projT2 i)) cc mod wordmax = spec (projT1 i) (Tuple.map ctx (projT2 i)) cc mod (u+1)) ->
                spec (projT1 i) (Tuple.map ctx (projT2 i)) cc mod wordmax = (cinterp f (cinterp x2))
        | _, _ => fun _ _ _ => True
        end idc x rf.
    Proof.
      destruct 1; try exact I; cbn [of_prefancy_ident]; cbn [GallinaReify.base.reify ident.ident_Literal ident.buildIdent] in *; hammer; intros; inversion_option; (simplify_ident; [ ]).
```
and another 1.5 seconds are added to another Qed.  There remain about 2 seconds of diff that I haven't tried to localize, but I think that's fine.

So my current guess is that most of the overhead is due to the fact that it's now significantly more expensive to use the unfolded form of `of_prefancy_ident` to destructure PHOAS expressions, due to more pattern matching.

**Comment by jadephilipoom** [comment]
Notes from in-person chat with Jason:
- Rewriter is close to stabilizing, so it doesn't make sense to put it in a branch at this point -- future changes (after the next 2-3 weeks) are not expected to alter the interface.
- My concerns about overhead are not specific to the fancy pipeline, so it's not currently a priority to debug the added time there.
